US07875600B2
3,6-Dimethylpyridine-2-methanamine
A solution of 3,6-dimethylpyridine-2-carbonitrile (264 mg, 2.00 mmol) in EtOH (10 mL) was treated with Raney-Ni (approximately 100 mg) and stirred under an atmosphere of hydrogen for 4 h at room temperature. The mixture was filtered through Celite and concentrated in vacuo to give the title compound (270 mg, 99%) as a yellow oil; NMR δH (400 MHz, CDCl3) 2.31 (3H, s), 2.51 (3H, s), 4.17 (2H, s), 7.00 (1H, d, J 7.5 Hz) and 7.37 (1H, d, J 7.5 Hz); M/Z 137 (M+H)+.

reactant | 3,6-dimethylpyridine-2-carbonitrile | 2.00 mmol, 264 mg | CC=1C(=NC(=CC1)C)C#N | C8H8N2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Ni | approximately 100 mg | [Ni] | Ni
product | 3,6-Dimethylpyridine-2-methanamine | 270 mg, 99% | CC=1C(=NC(=CC1)C)CN | C8H12N2
